Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Left breast cancer
 
Major Surgical or Invasive Procedure:
___
Left mastectomy with immediate Left transverse rectus abdominis 
myocutaneous (TRAM) flap reconstruction.
.
___
Hematoma left transverse rectus abdominis myocutaneous (TRAM) 
flap reconstruction.

 
History of Present Illness:
___ female with core biopsy proven carcinoma of the left 
breast diagnosed ___.  She is here today for a left 
mastectomy with immediate left TRAM reconstruction.
 
Past Medical History:
ulcerative colitis
depression
 
Social History:
___
Family History:
Negative for breast and ovarian cancer in first order blood 
relatives.  She has a paternal side of the family with breast 
cancer in a cousin and his daughter.  On the paternal side, 
there was also a paternal aunt with possible ovarian cancer.  
Her mother is ___, alive and well.  Her father died at age ___.  
He had a heart transplant in ___ and did well for a number of 
years.  She has one brother, ___, age ___ and a sister, ___ who 
are both alive and well.
 
Physical Exam:
Pre-procedure physical exam as documented in anesthesia record 
___:
Pulse: 102/min
Respr: 16/min
BP: 147/96
O2sat: 99%
Temp: 98.4 F
.
General: NAD
Mental/psych: A&Ox3, pt appears anxious. Pt. tearful, family 
present.
Airway: detailed in anesthesia record
Dental: good
Head/neck: Free range of motion
Heart: RRR
Lungs: clear to auscultation
Abdomen: soft, nontender positive BS
Extremities: pulses 2+, no edema
 
Pertinent Results:
___ 05:45AM BLOOD WBC-12.8*# RBC-2.76* Hgb-9.0*# Hct-27.4*# 
MCV-99*# MCH-32.7*# MCHC-32.9 RDW-13.8 Plt ___
___ 05:45AM BLOOD Neuts-85.4* Lymphs-10.6* Monos-3.9 
Eos-0.1 Baso-0
___ 05:45AM BLOOD Glucose-113* UreaN-6 Creat-0.5 Na-140 
K-3.3 Cl-108 HCO3-24 AnGap-11
 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ and had a left mastectomy followed by an immediate left 
TRAM flap reconstruction.  The patient tolerated the procedure 
well, recovered in PACU and was transferred to the floor. On the 
morning of POD#1, it was found that she had a hematoma in her 
left breast reconstruction cavity.  She was having significant 
drain output and left sided discomfort. She was taken back to 
the OR for washout of left breast reconstruction hematoma.  
Patient recovered in PACU and was transferred back to floor.
.
Neuro: Post-operatively, the patient received IV pain 
medications with good effect and adequate pain control. When 
tolerating oral intake, the patient was transitioned to oral 
pain medications. 
.
CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
.
Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
.
GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake. Her diet was advanced when appropriate, 
which was tolerated well. She was also started on a bowel 
regimen to encourage bowel movement. Patient did complain of 
constipation on hospital day #4 and was given multiple laxatives 
and an enema until bowel movement.  Foley was removed on ___ 
and patient able to void freely. Intake and output were closely 
monitored. 
.
ID: Post-operatively, the patient was started on IV cefazolin x 
24hours. The patient's temperature was closely watched for signs 
of infection. 
.
Prophylaxis: The patient was encouraged to get up and ambulate 
as early as possible and wore pneumoboots while in bed.
.
At the time of discharge on hospital day#6, the patient was 
doing well, afebrile with stable vital signs, tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  Left breast incision was intact, flap was 
warm with good capillary refill, native breast tissue with large 
amount of ecchymosis, JP x 1 with serous output.  Lower 
abdominal incision was intact, no evidence of hematoma, 
bilateral JP drains with serous output.
 
Medications on Admission:
FLUOXETINE - fluoxetine 20 mg capsule. 1 capsule(s) by mouth 
once
a day
FOLIC ACID - folic acid 1 mg tablet. One Tablet(s) by mouth 
daily
LORAZEPAM - lorazepam 0.5 mg tablet. 1 (One) tablet(s) by mouth
twice a day as needed for anxiety
MERCAPTOPURINE [PURINETHOL] - Purinethol 50 mg tablet. one and a
half Tablet(s) by mouth daily
MESALAMINE [DELZICOL] - Delzicol 400 mg capsule,delayed release.
4 capsule,delayed ___ by mouth three times a day
MESALAMINE [SFROWASA] - sfRowasa 4 gram/60 mL enema. One 
Enema(s)
rectally daily
.
Medications - OTC
ASCORBIC ACID [VITAMIN C] - Dosage uncertain -  (OTC)
FERROUS SULFATE [SLOW FE] - Slow Fe 47.5 mg iron tablet,extended
release. one Tablet(s) by mouth twice a day -  (OTC)
MULTIVIT-IRON-MIN-FOLIC ACID [CENTRUM] - Centrum 3,500 unit-18
mg-0.4 mg chewable tablet. 1 (One) Tablet(s) by mouth once a day
-  (OTC)

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain/fever 
RX *acetaminophen 325 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*60 Tablet Refills:*0
2. Docusate Sodium 100 mg PO BID:PRN constipation 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0
3. FoLIC Acid 1 mg PO DAILY 
4. Mercaptopurine 75 mg PO DAILY 
5. Mesalamine 1600 mg PO TID 
6. Mesalamine Enema 4 gm PR HS 
7. Multivitamins 1 TAB PO DAILY 
8. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*60 Tablet Refills:*0
9. Sertraline 25 mg PO DAILY 
10. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
11. Lorazepam 0.5 mg PO Q4H:PRN anxiety 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Senna 8.6 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1) Left breast cancer, absence of left breast
2) Hematoma left breast
3) constipation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care:
1. You may keep any occlusive dressings in place until your 
follow up appointment with Dr. ___. If dressings become wet 
underneath, then you may remove them and leave your incisions 
open to air or covered with a clean, sterile gauze.
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.
5. You may wear a camisole for comfort as desired. You may also 
wear a front zip up or front closing sports bra that is not too 
tight. No underwires.
6. You may shower daily with assistance as needed. Be sure to 
secure your drains to a lanyard that hangs down from your neck 
so they don't hang down and pull out.
7. No pressure on your chest or abdomen
8. Okay to shower, but no baths until after directed by Dr. 
___.
.
Activity:
1. You may resume your regular diet. 
2. Keep hips flexed at all times, and then gradually stand 
upright as tolerated.
3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery.
.
Medications:
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.
3. Take prescription pain medications for pain not relieved by 
tylenol.
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softerner if you wish.
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.
.
Call the office IMMEDIATELY if you have any of the following:
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).
2. A large amount of bleeding from the incision(s) or drain(s).
3. Fever greater than 101.5 oF
4. Severe pain NOT relieved by your medication.
.
Return to the ER if: 
* If you are vomiting and cannot keep in fluids or your 
medications. 
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness,swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.
* Any serious change in your symptoms, or any new symptoms that 
concern you.
.
DRAIN DISCHARGE INSTRUCTIONS
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.
 
Followup Instructions:
___